US07968570B2
A mixture of dimethyl-prop-2-ynyl-amine (0.036 mL, 0.32 mmol), 5-bromo-7-chloro-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.120 g, 0.28 mmol), PdCl2(PPh3)2 (0.011 g, 0.015 mmol), and CuI (0.0028 g, 0.015 mmol) in diisopropyl amine (4 mL) was stirred at 100° C. for 2 h. Workup and silica gel column chromatography using 10:1 CHCl3-MeOH afforded 7-chloro-5-(3-dimethylamino-prop-1-ynyl)-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.122 g, 79%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.36 (s, 6H), 3.44 (s, 2H), 4.21 (s, 2H), 4.77 (s, 2H), 7.14-7.36 (m, 5H), 7.43 (s, 1H).

reactant | dimethyl-prop-2-ynyl-amine | 0.32 mmol, 0.036 mL | CN(CC#C)C | C5H9N
reactant | 5-bromo-7-chloro-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.28 mmol, 0.120 g | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H10BrClF3NO2
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | diisopropyl amine | 4 mL | C(C)(C)NC(C)C | C6H15N
catalyst | PdCl2(PPh3)2 | 0.015 mmol, 0.011 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.015 mmol, 0.0028 g | [Cu]I
product | 7-chloro-5-(3-dimethylamino-prop-1-ynyl)-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.122 g, 79% | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C#CCN(C)C | C21H18ClF3N2O2
